US04518597
6-[4-(3,4-Dichloro-phenylmercapto)-butoxy]-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 5 from 6-hydroxy-4H-3,1-benzoxazin-2-one and 4-(3,4-dichloro-phenylmercapto)-butylbromide (prepared from 3,4-dichlorothiophenol and 1,4-dibromo-butane, B.p. 0.1 mb : 153°-160° C.).

reactant | 6-hydroxy-4H-3,1-benzoxazin-2-one | OC=1C=CC2=C(COC(N2)=O)C1 | C8H7NO3
reactant | 4-(3,4-dichloro-phenylmercapto)-butylbromide | ClC=1C=C(C=CC1Cl)SCCCCBr | C10H11BrCl2S
product | 6-[4-(3,4-Dichloro-phenylmercapto)-butoxy]-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)SCCCCOC=1C=CC2=C(COC(N2)=O)C1 | C18H17Cl2NO3S
